US06288096B1
A mixture of 32.5 g (64 mmole) 4-([3-nitrophenylsulfonyl]oxy)phenethyl 3-nitrobenzenesulfonate, 8 g (65 mmole) p-hydroxybenzaldehyde and 20 g (145 mmole) potassium carbonate in 300 ml acetonitrile was refluxed for 10 minutes, then stirred at room temperature over night and thereafter refluxed for 30 minutes. The salts were filtered off and the solvent evaporated in vacuo. Dichloromethane and water were added, the phases were separated, the organic phase was dried and the solvent was evaporated in vacuo. Purification by chromatography on silica gel using dichloromethane as eluent and crystallization in diisopropyl ether gave 23.5 g (yield 86%) of 4-[2-(4-formylphenoxy)ethyl]phenyl 3-nitrobenzenesulfonate.

reactant | 4-([3-nitrophenylsulfonyl]oxy)phenethyl 3-nitrobenzenesulfonate | 64 mmole, 32.5 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C20H16N2O10S2
reactant | p-hydroxybenzaldehyde | 65 mmole, 8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 145 mmole, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]phenyl 3-nitrobenzenesulfonate | 23.5 g, yield 86% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C21H17NO7S
